US06720329B2
Thionyl chloride (2 mL) was added to a suspension of 4-(2H-chromen-4-yl)benzoic acid from reaction 34c (0.415 g, 1.6 mmol) in dichloromethane (10 mL) at room temperature. The reaction was stirred for 4 h, concentrated in vacuo to give 4-(2H-chromen-4-yl)benzoyl chloride (0.445 g, 99%) as a yellow solid.

reactant | Thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(2H-chromen-4-yl)benzoic acid | O1CC=C(C2=CC=CC=C12)C1=CC=C(C(=O)O)C=C1 | C16H12O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(2H-chromen-4-yl)benzoyl chloride | 0.445 g, 99% | O1CC=C(C2=CC=CC=C12)C1=CC=C(C(=O)Cl)C=C1 | C16H11ClO2
